US04329457
4-Nitrobenzylidene-(6-morpholino-3-pyridazinyl)-hydrazine
The mixture of 5.55 g (20 mmoles) of 4-nitrobenzylidene-(6-chloro-3-pyridazinyl)-hydrazine [prepared by the process described in Step a:], 7.66 g (88 mmoles) of morpholine and 5.5 ml of hexamethylphosphoric cid triamide is heated at 150° C. for 24 hours. After cooling, the mixture is triturated with 56 ml of water, the precipitate is filtered, washed with cold ethanol and dried to give 5.6 g (85%) of the named compound; m.p. 245° C. (with decomposition).

reactant | 4-nitrobenzylidene-(6-chloro-3-pyridazinyl)-hydrazine | 20 mmoles, 5.55 g | [N+](=O)([O-])C1=CC=C(C=NNC=2N=NC(=CC2)Cl)C=C1 | C11H8ClN5O2
reactant | morpholine | 88 mmoles, 7.66 g | N1CCOCC1 | C4H9NO
solvent | hexamethylphosphoric cid triamide | 5.5 ml | CN(P(N(C)C)(N(C)C)=O)C | C6H18N3OP
product | 4-Nitrobenzylidene-(6-morpholino-3-pyridazinyl)-hydrazine | 5.6 g, 85% | [N+](=O)([O-])C1=CC=C(C=NNC=2N=NC(=CC2)N2CCOCC2)C=C1 | C15H16N6O3
